US05322638
4.1 g of potassium t-butylate were added in an inert gas atmosphere to a suspension of 12.2 g of dry methoxymethyltriphenylphosphonium chloride in 125 ml of t-butyl methyl ether and the orange-red suspension was stirred for 30 minutes. A solution of 5.00 g of 4-(3,4-difluorophenyl)cyclohexanone in 75 ml of t-butyl methyl ether was added dropwise at 0°-5° C. within 1 hour. The reaction mixture was stirred at 0°-5° C. for a further 1 hour and at room temperature for 2.5 hours and then treated with 50 ml of saturated sodium hydrogen carbonate solution. The organic phase was washed with water and concentrated. The residue was taken up in 200 ml of hexane and 100 ml of 80 percent aqueous methanol. The hexane phase was washed with two 40 ml portions of 80 percent methanol, dried over sodium sulphate and concentrated. There were obtained 5.6 g of 1,2-difluoro-4-[ 4-(methoxymethylidene)cyclohexyl]benzene.

reactant | methoxymethyltriphenylphosphonium chloride | 12.2 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(3,4-difluorophenyl)cyclohexanone | 5.00 g | FC=1C=C(C=CC1F)C1CCC(CC1)=O | C12H12F2O
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | t-butyl methyl ether | 125 ml | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 75 ml | COC(C)(C)C | C5H12O
product | 1,2-difluoro-4-[ 4-(methoxymethylidene)cyclohexyl]benzene | 5.6 g | FC1=C(C=C(C=C1)C1CCC(CC1)=COC)F | C14H16F2O
